data/specific_train_final.csv
"CCCCOC(CO)[O:20][O:21]N=O>>CCCCOC(CO)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCC12C=C(C(C(C1O)(OO2)C)[O:20][O:21]N=O)C>>CCC12C=C(C(C(C1O)(OO2)C)[O:20])C.N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:4][C:3](=[CH:5][O:6])[C:2]([CH3:1])([CH2:10][O:11][N+:12](=[O:14])[O-:13])[O:7][O:8][H:9].[O:15][O:16]>>[H:4][C:3]([CH:5]=[O:6])([C:2]([CH3:1])([CH2:10][O:11][N+:12](=[O:14])[O-:13])[O:7][O:8][H:9])[O:15][O:16] 15-15,3; 5,3-15,3; 6-5,6; 5,3-5,6",Room Temperature,Termination,recombine
"[H:20][O:21][O].CCOC(C)(C)CO[O:10]>>[H:20][O:10]OCC(C)(C)OCC.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:15][O:14][O:13].[CH3:7][C:4]([CH2:3][O:2][O:1])([CH:8]([CH:11]=[O:12])[O:9][OH:10])[O:5][OH:6]>>[H:15][O:1][O:2][CH2:3][C:4]([CH3:7])([CH:8]([CH:11]=[O:12])[O:9][OH:10])[O:5][OH:6].[O:13][O:14] 1-1,15; 14,15-1,15; 14,15-14",Room Temperature,Propagation,abstraction
"CC(C)(C)OCCOO[O:20][N+:21](=O)[O-]>>CC(C)(C)OCCOO[O:20].[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCC(C1=CC=CC=C1)O[O:20].[N:10]=O>>CCC(C1=CC=CC=C1)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCCC(CO[N+](=O)[O-])O[O:20].[N+](=O)([O-])[O:10]>>CCCC(CO[N+](=O)[O-])O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCC(C(C)C)O[O:20].[N+](=O)([O-])[O:10]>>CCC(C(C)C)O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"COC[O:20][O:21]N=O>>COC[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[CH3:10][CH2:9][C:6]([CH3:7])([CH3:8])[O:5][O:4][O:3][N+:2](=[O:11])[O-:1]>>[CH3:10][CH2:9][C:6]([CH3:7])([CH3:8])[O:5][O:4][O:3].[N+:2](=[O:11])[O-:1] 2,3-2; 2,3-3",Room Temperature,Initiation,homolyze
"CCCCCCC(CC)O[O:20].[N:10]=O>>CCCCCCC(CC)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C[C:10](C)CO[N+](=O)[O-].[O:20][O]>>C[C:10](C)(CO[N+](=O)[O-])[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH2:10]/C=C/CO[N+](=O)[O-].[O:20][O]>>C(/C=C/[CH2:10][O:20][O])O[N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(C)(C)OC(=O)C[O:20][O:21]N=O>>CC(C)(C)OC(=O)C[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[CH3:11][CH2:10][CH2:9][CH:8]([CH:6]([CH3:7])[O:5][O:4][O:3][N+:2](=[O:16])[O-:1])[O:12][N+:13](=[O:15])[O-:14]>>[CH3:11][CH2:10][CH2:9][CH:8]([CH:6]([CH3:7])[O:5][O:4][O:3])[O:12][N+:13](=[O:15])[O-:14].[N+:2](=[O:16])[O-:1] 2,3-2; 2,3-3",Room Temperature,Initiation,homolyze
"CC1=C(C=C[CH:21]=[CH:20]1)C.[OH:10]>>CC1=C([CH:20]([CH:21]C=C1)[OH:10])C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[CH3:4][C:3]([CH:2]=[O:1])([CH:9]([O:11][OH:12])[CH2:13][O:14][OH:15])[O:5][O:6][N:7]=[O:8]>>[CH3:4][C:3]([CH:2]=[O:1])([CH:9]([O:11][OH:12])[CH2:13][O:14][OH:15])[O:5].[N:7](=[O:8])[O:6] 5,6-5; 5,6-6",Room Temperature,Initiation,homolyze
"CCC1=CC2(C(C([CH:10]1)(OO2)C)O)CC.[O:20][O]>>CCC1=CC2(C(C([CH:10]1[O:20][O])(OO2)C)O)CC 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCCCC(C[O:20][O:21]N=O)O[N+](=O)[O-]>>CCCCC(C[O:20])O[N+](=O)[O-].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C[C:10](C)C(C)(C)O.[O:20][O]>>CC(C)([C:10](C)(C)[O:20][O])O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH3:10][C:9](=[O:11])[CH2:8][O:7][OH:6].[CH:4](=[O:5])[CH:3][O:2][OH:1]>>[CH3:10][C:9](=[O:11])[CH2:8][O:7][OH:6].[CH:3](=[O:2])[CH:4]=[O:5].[OH:1] 3-2,3; 1,2-2,3; 1,2-1",Room Temperature,Propagation,retroaddition
"CCCCC(COO[O:20][N+:21](=O)[O-])O[N+](=O)[O-]>>CCCCC(COO[O:20])O[N+](=O)[O-].[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:4][C:3]([H:5])[C:2](=[C:6]([H:7])[CH2:8][Cl:9])[CH3:1]>>[H:4][C:3](=[C:2]([CH3:1])[C:6]([H:7])[CH2:8][Cl:9])[H:5] 3-3,2; 2,6-3,2; 2,6-6",Room Temperature,Propagation,resonance
"[H:20][O:21][O].CC(C(C)O[O:10])OC(=O)C>>[H:20][O:10]OC(C)C(C)OC(=O)C.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:20][O:21][CH:22]C1(C(O1)C(=CC(=O)CC)C)C.[O:10][O]>>[H:20][O:10][O].CCC(=O)C=C(C)C1C(O1)(C)[CH:22]=[O:21] 10-10,20;20,21-10,20;20,21-21,22;22-21,22",Room Temperature,Termination,abstraction
"CCCC12C=CC(C(C1O)OO2)[O:20][O:21]N=O>>CCCC12C=CC(C(C1O)OO2)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C1C(O1)O[O:20].[N+](=O)([O-])[O:10]>>C1C(O1)O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(=O)C(C(C)(C)O)[O:20][O:21]N=O>>CC(=O)C(C(C)(C)O)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[CH3:4][CH2:3][CH:2]([CH3:1])[CH2:5][CH2:6][O:7][O:8].[N+:10](=[O:9])([O-:11])[O:12]>>[CH3:4][CH2:3][CH:2]([CH3:1])[CH2:5][CH2:6][O:7][O:8][O:12][N+:10](=[O:9])[O-:11] 8-8,12; 12-8,12",Room Temperature,Termination,recombine
"CC([O:20][O:21]N=O)Cl>>CC([O:20])Cl.N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
